US07276606B2
[6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-m-tolyl-methanone was prepared from phenanthridine, m-toluoyl chloride, and indole according to GP 2. Yield, 13%. 1H-NMR (CD3CN): δ=2.22 (s, 3H), 6.22 (dd, J=2.5 Hz, J=1.0 Hz, 1H), 6.41 (s, br., 1H), 6.75 (t, J=7.5 Hz, 1H), 6.96 (d, J=7.5 Hz, 1H), 7.06-7.15 (m, 4H), 7.15-7.21 (m, 2H), 7.24-7.31 (m, 2H), 7.43 (ddd, J=J=7.3 Hz, J=1.2 Hz, 1H), 7.47-7.59 (m, 2H), 7.88 (dd, J=7.8 Hz, J=1.0 Hz, 1H), 7.93-8.00 (m, 1H), 8.04 (d, J=7.7 Hz, 1H), 8.90 (s, br., 1H); (+)-ESI-MS: m/z=415 [M+H]+, 298 [M-indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | m-toluoyl chloride | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | [6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-m-tolyl-methanone | N1C=C(C2=CC=CC=C12)C1N(C=2C=CC=CC2C2=CC=CC=C12)C(=O)C=1C=C(C=CC1)C | C29H22N2O
